Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Bactrim
 
Attending: ___.
 
Chief Complaint:
"onset of a mental breakdown"

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ ___ majoring in
___ with a psychiatric history of depression,
self-reported ADHD, cannabis use disorder (moderate-severe), and
alcohol use disorder (unclear severity), who presents with
feeling the "onset of a mental breakdown" and reporting suicidal
ideation at school. Psychiatry is consulted for a safety
evaluation and to aid with disposition planning. 

This morning Ms. ___ says her thoughts "began to spiral out of
control." More specifically, she felt that there was "no point 
in
living." These thoughts prompted the pt to call her mental 
health
service at her college, who recommended she come in immediately.
She supports vague thoughts about ways in which she may take her
life, including "shooting myself in the head" or "overdosing."
She has not had thoughts like these previously, but she does 
have
feelings of depression for "as long as she can remember." She
denies any access to firearms or drugs on which to overdose. She
said that she feels fairly ambivalent about her life as well as
death. She says that she is unlikely to do anything active in
order harm herself but notes that she wishes God would just take
her life. She denies trying to step out into traffic, or engage
in other suicidal behaviors. When asked how she would feel if 
she
had cancer today she said, "probably happy". When asked if she
would talk to anyone about her suicidal thoughts if they moved
from active to passive thoughts she says "probably not" and she
said "I would probably just kill myself". She currently has no
outpatient psychiatric providers. She has some difficulty citing
reasons to live, though she does note that she is hopeful for a
family in the future and she wants to be a ___.  


Ms. ___ reports several recent life stressors that have
triggered these feelings: 1) she broke up with her boyfriend
4-days prior. She considered her boyfriend and his family as 
part
of her family and support system, and feels lost without them.
She does not have a good relationship with her own parents and
her relationship with her boyfriend and his family provided a
substitute; 2) she started school 5-weeks prior and has found
this semester to be stressful. She reports poor concentration 
and
grades that are slipping, which is frustrating because she feels
that she is capable of better grades. She also feels burnt out
from school as she took a summer course and feels like she never
received a break from school; 3) pt has come to the realization
that she is "dependent" on marijuana, which upsets her. She is
smoking about 3 times per a day and feels that she needs to 
smoke
in order to fall asleep and reduce anxiety. 

Ms. ___ supports difficulty falling asleep at night without
marijuana. She is able to sleep through the night without issue
but only gets ___ hours per a night due to demands of school and
feels very tired and fatigued throughout the day. She also uses
marijuana to relieve her anxiety.  She was unable to identify
things in life that bring her pleasure, except smoking marijuana
with her friends. She feels like she has lost interest in
activities in which she used to enjoy, but could not verbalize
these past interests. She denies any changes in appetite or
weight. She feels her concentration is poor. Ms. ___ supports
feeling very anxious and like her "insides are shaking", but
denies symptoms of panic attacks. 

She has only felt this level of sadness that she currently feels
once before in her life, during the beginning of her sophomore
year of college. This episode was triggered by finding out her 
BF
cheated on her. This was difficult to handle in the context of
her father who had previously cheated on her mother. She did not
have SI during this last depressive episode. 

Ms. ___ support system consists of two male friends, ___
and ___, and her 3 older sisters. She does not speak
frequently with her parents. When engaging in a conversation
regarding further mental healthcare, she states that she does 
not
currently have outpatient providers. When talking about the
options and levels of care she first expressed interest in a
partial though then noted that she would likely not end up going
to the evening program because of constraints of schoolwork. We
discussed the concern I had regarding her safety, ambivalence
towards life and death (and her lack of distress about her own
life or death), lack of ability to safety plan, as well as lack
of coping skills. She was able to verbalize that she felt a
psychiatric hospitalization would probably be the most 
beneficial
next step for her. 

Psych ROS: 
(+) per HPI
(-) HI/AH/VH, mania, paranoia, panic attacks, history of
physical, verbal, or sexual abuse, restricting calories, 
concerns
about weight, binging or purging

PHYSICAL ROS: 
(+) cold intolerance, hair loss 
(-) Neg except as above

COLLATERAL: 
-Sister ___: they text on regular basis, and last talked a
couple of days ago. Sister thinks she has been acting "normal."
She knew that ___ broke up with her boyfriend, but thinks
this was mutual. She has no concerns about patient's safety and
doesn't think she would harm herself.

-Mother, ___: mother did not know patient was feeling sad or
having SI. Mom reports that in past pt has had "roll coasters w/
sadness." Mom last saw pt on ___, when ___ came home 
for
physical. Her mood seemed "good" at this time, but they did not
talk much, since she was home for only a short period of time.  

-___ (___), from ___ services at ___, 
pt
presented today to her clinic w/ "not wanting to live anymore."
___ had hard time identifying protective factors and was
concerned about substance abuse history. She thought it would be
appropriate for her to go to the ED and is supports the decision
for hospitalization.      

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
-Diagnoses: Longstanding depression, self-reported ADHD
-Hospitalizations: Denies
-SI/SA: Currently suicidal ideation, no history of SIB or 
suicide
attempts
-Treaters: None currently. Ms. ___ saw a counselor as a 
freshman
in HS, which she did not find helpful. She started seeing a
counselor her freshman year of college through their mental
health services about 1x per week for 6mo. She currently does 
not see a counselor there. 
-Medication Trials: Currently on methylphenidate, but no other
trials

PAST MEDICAL HISTORY: 
- Hemorrhoids, dx via colonoscopy. Will require surgery. She 
tends
to have BRBPR ___ these hemorrhoids.
- Rash [current] after being exposed to fleas from ex-BF cat

 
Social History:
SUBSTANCE ABUSE HISTORY: 
-ETOH: on ___ pt was brought to ___ ED by authorities 
for
getting intoxicated at a ___ game and vomiting in public. 
She
drinks on the weekends, about 4 beers per a night. She reports
several episodes of blacking out after drinking too much alcohol
over this past summer. She denies having a problem w/ alcohol or
craving it.
-MJ: pt began smoking MJ regularly in her sophomore year of
college. She now currently smokes at least 3x per a day, usually
w/ friends. She will smoke before starting her homework and 
feels
dependent on MJ to fall asleep at night. Denies using 
synthetics.
-Acid: pt tried acid for the first time a couple of weeks ago
-Cocaine: pt has tried cocaine about 3x  
-___: pt has tried ___ 1x 
-Tobacco: Denies

SOCIAL HISTORY: ___
Family History:
-Mother: pt reports she is depressed; alcoholic 
-Father: pt thinks her father is a "psychopath;" alcoholic  
-Sister: addicted to opioids for ___ years, has undergone 
treatment

 
Physical Exam:
EXAM: T 97.6 HR 84, BP 131/45, RR 16 100% (RA)   

Neurological:  
 *station and gait: Ambulatory, stable 
 *tone and strength: moving all 4 limbs symmetrically 
 cranial nerves: grossly intact
 abnormal movements: none noted

Cognition: 
 Wakefulness/alertness: awake, alert
 *Attention: able to attend fully to interview 
 *Orientation: Oriented to person, place, and date
 Executive function (go-no go, Luria, trails, FAS): did not
assess
 *Memory: not formally assessed; long term memory grossly intact 


 *Fund of knowledge: Appropriate for education
 *Speech: normal volume, rate, rhythm, prosody  
 *Language: fluent ___, no paraphasic errors
 
Mental Status:
 *Appearance: Young Caucasian woman with bright blonde hair,
wearing hospital gown w/ lip piercing, lying under blankets on
bed in ER. Good hygiene.  
 Behavior: Very pleasant, cooperative, good eye contact, no
abnormal movements
 *Mood and Affect: sad/Dysphoric, though bright at times
 *Thought process: Linear, logical goal directed. No evidence of
tangentiality or circumstantiality.
 *Thought Content: Spends most of the interview talking about 
her
psychosocial stressors and depressive symptoms. Denies AH/VH and
is not responding to internal stimuli on exam. Endorses ongoing
passive suicidal ideation though expresses she wouldn't mind if
God "took her". No homicidal ideation/intent/plan. 
 *Judgment and Insight: Limited/Limited  

 
Pertinent Results:
___ 06:38AM BLOOD calTIBC-436 VitB12-764 Folate-18.6 
Ferritn-7.2* TRF-335
___ 06:38AM BLOOD Iron-29*
___ 06:38AM BLOOD TSH-2.3
___ 06:38AM BLOOD 25VitD-30
 
Brief Hospital Course:
PSYCHIATRIC
 #)On admission, pt was expressive active suicidal ideation, and 
had been thinking about ways to end her life via shooting 
herself or overdosing on medication, but did not feel she 
actually had access to these means or would follow-through with 
a plan. She endorsed multiple psychosocial stressors including a 
recent break-up with her boyfriend, and increasing academic 
difficulty compounded by frequent marijuana use and increased 
neurovegetative symptoms.
 During hospitalization, we started the pt on wellbutrin 100 mg 
PO daily, and she will be discharged on this dose. On discharge, 
mood was "good" and pt is looking forward to leaving and getting 
back to school, MSE was pertinent for lack of suicidal ideation 
and a more upbeat affect.
 Safety: The patient remained in good behavioral control 
throughout this hospitalization and did not require physical or 
chemical restraint. The patient remained on 15 minute checks, 
which is our lowest acuity level of checks.

 GENERAL MEDICAL CONDITIONS
 #)Scabies- Dermatology was consulted in the ED and recommended 
treatment with ivermectin x1 which she received. She was treated 
symptomatically with Benadryl and hydrocortisone cream during 
her hospitalization. Per dermatology, consideration can be given 
to retreating with ivermectin in 2 wks. Pt also received x1 50 
mg hydroxyzine for itching on two occasions which relieved her 
symptoms.
 -Recommend f/u with outpt providers as clinically indicated

# Iron deficiency anemia: H/H 10.2/33.5, MCV 82, Ferritin 7.2,
iron 29
- Started Ferrous Sulfate 325 mg
-Recommend f/u with outpt providers as clinically indicated

 PSYCHOSOCIAL
 #) MILIEU/GROUPS
 The patient was  participatory in the milieu. The patient was 
very visible on the unit and frequently had conversations with 
her peers. She attended some groups. She never engaged in any 
unsafe behaviors. The pt ate all meals in the milieu, slept 
well, and cooperated with unit rules.
 #) FAMILY CONTACTS
 Family meeting was held with the patient's sister, ___, 
and mother, and was notable for a very high level of support 
from the family and excellent communication with all involved 
parties. They understand and are in agreement with the current 
treatment and discharge plan.

 LEGAL STATUS
 The pt remained on a CV throughout the duration of this 
admission.

 RISK ASSESSMENT:

 Static risk factors include:
 -lack of parental role models

 Modifiable risk factors include:
 -active SI, hopelessness, active substance misuse, acute major 
mood episode, limited outpatient/social support, financial 
stressors 
We modified this risk by starting the pt on wellbutrin for her 
depression and ensuring outpatient mental health follow-up.

 Protective factors include:
 -Protective factors include help-seeking behavior, intelligence

Current risk is low for intentional self-harm given that pt 
denies suicidal ideation, intent and plan, is accepting of 
treatment, is currently sober and is future oriented with plans 
to complete her college degree.

 INFORMED CONSENT
 I discussed the indications for, intended benefits of, and 
possible side effects and risks of this medication, and risks 
and benefits of possible alternatives, including not taking the 
medication, with this patient.  We discussed the patient's right 
to decide whether to take this medication as well as the 
importance of the patient's actively participating in the 
treatment and discussing any questions about medications with 
the treatment team, and I answered the patient's questions.  The 
patient appeared able to understand and consented to begin the 
medication.

 PROGNOSIS:
 Good due to the fact that she no is help-seeking, agreeable to 
engaging in outpatient mental health treatment, and is 
future-oriented.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Concerta (methylphenidate) 67 mg oral DAILY 
2. Loratadine 10 mg PO DAILY 

 
Discharge Medications:
1. BuPROPion (Sustained Release) 100 mg PO DAILY 
RX *bupropion HCl 100 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0
2. Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate [Iron (ferrous sulfate)] 325 mg (65 mg iron) 
1 tablet(s) by mouth Daily Disp #*30 Tablet Refills:*0
3. Loratadine 10 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
major depressive disorder

 
Discharge Condition:
Ambulatory

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___